US07402672B2
3-Phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-1.
Add to 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide (6a-1, R4═H; 1.0 equiv) in DMF (100 mL), diphenyldisulfide (1.0 equiv) as described in General Synthetic Procedure IVb to provide Ia-1 as a tan crystalline solid (81%), mp 251° C., tlc Rf=0.49. 1H NMR (DMSO-d6) δ 12.48 (bs, 1H), 8.45 (dd, 1H, J=1.5, 4.4 Hz), 8.11 (bs, 1H), 7.89 (dd, 1H, J=1.5, 4.0 Hz overlapping with a bs, 1H), 7.31 (dd, 1H, J=1.4, 4.5 Hz), 7.28 (dd, J=1.5, 4.5 Hz, 1H) 7.21 (m, 2H), 7.13-7.05 (m, 3H); m/z=270.06 (M +H). Anal. Calcd. For C14H11N3SO: C, 62.44; H, 4.12; N, 15.6. Found: C, 62.31; H, 4.08; N, 15.39.

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | 1.0 equiv | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | diphenyldisulfide | 1.0 equiv | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | 81% | C1(=CC=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H11N3OS
